US06548506B2
Ethyl 1-(2,4-difluorophenyl)-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate was obtained under the conditions of Example 13, but from 3.68 g of ethyl 3-(2-chloro-6,7-difluoro-3-quinolyl)-2-dimethylaminomethylene-3-oxopropionate and 3.87 g of 2,4-difluoroaniline in 40 cm3 of trichloromethane. 50 cm3 of ethanol and 1.5 cm3 of 1,8-diazabicyclo[5.4.0]undec-7-ene were added to the mixture, which was heated at a temperature around 80° C. for approximately 1 hour. After cooling to a temperature around 10° C., the product was filtered off and washed 2 times with 50 cm3 of ethanol and 2 times with 50 cm3 of isopropyl ether. 3.3 g of ethyl 1-(2,4-difluorophenyl)-7,8-difluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylate were obtained in the form of a yellow solid melting at approximately 300° C., which solid was used without additional purification in the subsequent stages.

reactant | ethyl 3-(2-chloro-6,7-difluoro-3-quinolyl)-2-dimethylaminomethylene-3-oxopropionate | 3.68 g | ClC1=NC2=CC(=C(C=C2C=C1C(C(C(=O)OCC)=CN(C)C)=O)F)F | C17H15ClF2N2O3
reactant | 2,4-difluoroaniline | 3.87 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | ethanol | 50 cm3 | C(C)O | C2H6O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.5 cm3 | N12CCCCCC2=NCCC1 | C9H16N2
solvent | trichloromethane | 40 cm3 | ClC(Cl)Cl | CHCl3
product | ethyl 1-(2,4-difluorophenyl)-7,8-difluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylate | 3.3 g | FC1=C(C=CC(=C1)F)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)OCC | C21H12F4N2O3
